US08877774B2
Step 8. (S)-3-(1,3-Dioxolan-2-yl)propyl 2-amino-3-phenylpropanoate
The title compound was prepared in two steps. Boc-Phe-OH was reacted with 2-(3-chloropropyl)-1,3-dioxolane according to Example 10 Step 1, and the subsequent product reacted with hydrogen chloride in dioxan according to Example 79 Step 5.

reactant | Boc-Phe-OH | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | 2-(3-chloropropyl)-1,3-dioxolane | ClCCCC1OCCO1 | C6H11ClO2
reactant | hydrogen chloride | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
product | (S)-3-(1,3-Dioxolan-2-yl)propyl 2-amino-3-phenylpropanoate | N[C@H](C(=O)OCCCC1OCCO1)CC1=CC=CC=C1 | C15H21NO4
